US04929637
Step E: Preparation of 4-(1-Hydroxypropyl)-5-methylsulfonylthiophene-2-sulfonamide
To a stirred solution of 4-[1-(methoxyethoxymethoxy)propyl]-5-methylsulfonylthiophene-2-sulfonamide (8.0 g, 0.02 mol) in methanol (20 ml) was added a cold solution of concentrated sulfuric acid (20 ml) in water (20 ml). The mixture was stirred at room temperature for 1 hour and the solution was basified with a slight excess of 40% NaOH and the suspension was filtered to remove precipitated salts. The filtrate was washed with ether and acidified with HCl. The acidified mixture was extracted with ethyl acetate (4×25 ml). The combined extracts were washed with saturated NaCl solution and dried over anhydrous Na2SO4. The solution was filtered and concentrated in vacuo at room temperature to give a viscous yellow oil which was a mixture of five components. Chromatography on 300 g of silica gel eluting with 5% methanol/CHCl3 gave 3.0 g of a pure colorless oil. Trituration of the oil in n-butyl chloride gave a white solid (2.8 g) (45%). The product was recrystallized from 1,2-dichloroethane; m.p. 125.5-126.5° C.

reactant | 4-[1-(methoxyethoxymethoxy)propyl]-5-methylsulfonylthiophene-2-sulfonamide | 0.02 mol, 8.0 g | COCCOCOC(CC)C=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C12H21NO7S3
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | methanol CHCl3 | CO.C(Cl)(Cl)Cl
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 4-(1-Hydroxypropyl)-5-methylsulfonylthiophene-2-sulfonamide | 3.0 g | OC(CC)C=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C8H13NO5S3
